US04550105
In 13 ml of methylene chloride is suspended 610 mg of 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-allyloxyiminoacetic acid and under ice-cooling and stirring 502.4 mg of phosphorus pentachloride is added. The mixture is stirred at room temperature for 30 minutes, after which 100 ml of hexane is added to the reaction mixture. The resulting crystals are recovered by filtration and washed with hexane to give 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-allyloxyiminoacetyl chloride hydrochloride, m.p. 67°-70° C.

reactant | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-allyloxyiminoacetic acid | 610 mg | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC=C | C10H10ClN3O4S
reactant | phosphorus pentachloride | 502.4 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-allyloxyiminoacetyl chloride hydrochloride | Cl.ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OCC=C | InChI=1S/C10H9Cl2N3O3S.ClH/c1-2-3-18-15-8(9(12)17)6-5-19-10(13-6)14-7(16)4-11;/h2,5H,1,3-4H2,(H,13,14,16);1H/b15-8-;
